US06498172B1
(3-Formyl-phenoxy)-acetic acid methyl ester.
A mixture of (3-formyl-phenoxy)-acetic acid (3.6 g, 20.0 mmol), potassium carbonate (3.30 g, 23.9 mmol) and methyl iodide (1.86 g, 30.0 mmol) in 25 mL DMF was heated to 110° C. for 2 hours and was stirred at room temperature for 16 h. The mixture was diluted with water and the aqueous solution was extracted with EtOAc. The organic solution was washed with water, dried over MgSO4, filtered and concentrated in vacuo. The product was purified via silica gel chromatography (4:1 hexanes:EtOAc) to afford the title compound as a pale yellow oil (3.4 g). 1H NMR (400 MHz, CDCl3) δ 9.94 (s, 1H), 7.48 (m, 2H), 7.33 (s, 1H), 7.23 (m, 1H), 4.68 (s, 2H), 3.79 (s, 3).

reactant | (3-formyl-phenoxy)-acetic acid | 20.0 mmol, 3.6 g | C(=O)C=1C=C(OCC(=O)O)C=CC1 | C9H8O4
reactant | potassium carbonate | 23.9 mmol, 3.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 30.0 mmol, 1.86 g | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (3-Formyl-phenoxy)-acetic acid methyl ester | 3.4 g | COC(COC1=CC(=CC=C1)C=O)=O | C10H10O4
